US07022730B2
The compound Bis(4-chloro-1-butylindol-3-yl)-(2-chloro-4-fluorophenyl)methane was prepared following procedure A, starting from 4-chloro indole and 2-chloro 4-fluorobenzaldehyde, and the resulting compound was reacted with 1-bromobutane following procedure B. LC: Tr 2.83 min, MS: 555 (M+H)+

reactant | 4-chloro indole | ClC1=C2C=CNC2=CC=C1 | C8H6ClN
reactant | 2-chloro 4-fluorobenzaldehyde | ClC1=C(C=O)C=CC(=C1)F | C7H4ClFO
reactant | 1-bromobutane | BrCCCC | C4H9Br
product | Bis(4-chloro-1-butylindol-3-yl)-(2-chloro-4-fluorophenyl)methane | ClC1=C2C(=CN(C2=CC=C1)CCCC)C(C1=C(C=C(C=C1)F)Cl)C1=CN(C2=CC=CC(=C12)Cl)CCCC | C31H30Cl3FN2
